US07750161B2
C2.2. 2-Methyl-6-(E)-styryl-isonicotinoyl azide
To a solution of 2-methyl-6-(E)-styryl-isonicotinic acid (214 mg, 0.89 mmol) in DMF (5 mL) is added at 0° C. TEA (0.21 mL, 1.5 mmol) and slowly (30 min) DPPA (366 mg, 1.33 mmol). The reaction mixture is stirred for 0.5 h at 0° C. and 0.5 h at r.t. The reaction is quenched with ice (20 g) and extracted with Et2O (6×30 mL). The combined organic extracts are washed successively with saturated NaHCO3 (2×15 mL) and water (2×10 mL), and are evaporated in vacuo without heating. The residue is purified by FC (SiO2, EtOAc-heptane) to provide the title compound.

reactant | 2-methyl-6-(E)-styryl-isonicotinic acid | 0.89 mmol, 214 mg | CC=1C=C(C(=O)O)C=C(N1)\C=C\C1=CC=CC=C1 | C15H13NO2
reactant | DPPA | 1.33 mmol, 366 mg | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-Methyl-6-(E)-styryl-isonicotinoyl azide | CC=1C=C(C(=O)N=[N+]=[N-])C=C(N1)\C=C\C1=CC=CC=C1 | C15H12N4O
